US05849735
N-[5-[(9,10-Dihydro-4H-thieno[2,3-c][1]benzazepin-9-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide
As described for Example 12, 9,10-dihydro-4H-thieno[2,3-c][1]benzazepine is reacted with 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride to give the product as a solid.

reactant | 9,10-dihydro-4H-thieno[2,3-c][1]benzazepine | S1C=CC2=C1CNC1=C(C2)C=CC=C1 | C12H11NS
reactant | 6-[([1,1'-biphenyl]-2-ylcarbonyl)amino]-3-pyridinecarbonyl chloride | C1(=C(C=CC=C1)C(=O)NC1=CC=C(C=N1)C(=O)Cl)C1=CC=CC=C1 | C19H13ClN2O2
product | N-[5-[(9,10-Dihydro-4H-thieno[2,3-c][1]benzazepin-9-yl)carbonyl]-2-pyridinyl][1,1'-biphenyl]-2-carboxamide | S1C=CC2=C1CN(C1=C(C2)C=CC=C1)C(=O)C=1C=CC(=NC1)NC(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C31H23N3O2S
